US06017922
The crude trimetrexate base is dissolved in a mixture of DMF and water, preferably in a v/v ratio of about 10:1. The solution is initially heated to about 100° C., then a polar component such as an alcohol, preferably ethanol, is added as the solution cools to about 55-60° C. where crystallization occurs. The resulting crystals are then washed with ethanol to yield a pure trimetrexate DMF adduct. This trimetrexate-DMF adduct is itself a novel compound and is included within the scope of the invention.

reactant | trimetrexate | CC1=C(C=CC2=C1C(=NC(=N2)N)N)CNC3=CC(=C(C(=C3)OC)OC)OC | C19H23N5O3
reactant | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | trimetrexate DMF | CC1=C(C=CC2=C1C(=NC(=N2)N)N)CNC3=CC(=C(C(=C3)OC)OC)OC.CN(C)C=O | InChI=1S/C19H23N5O3.C3H7NO/c1-10-11(5-6-13-16(10)18(20)24-19(21)23-13)9-22-12-7-14(25-2)17(27-4)15(8-12)26-3;1-4(2)3-5/h5-8,22H,9H2,1-4H3,(H4,20,21,23,24);3H,1-2H3
